US08623859B2
4-Methoxy-N,2,6-trimethyl-N-[(4-{[4-(1-methylpiperidin-4-yl)piperazin-1-yl]carbonyl}-1,3-oxazol-2-yl)methyl]benzenesulfonamide
2-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,3-oxazole-4-carboxylic acid (50 mg, 0.14 mmol) was dissolved in DMF (3 mL) and EDCI (32 mg, 0.17 mmol) and HOAt (23 mg, 0.17 mmol) were added. The resulting solution was stirred for 60 min at ambient temperature prior to the addition of a solution of 1-(1-methylpiperidin-4-yl)piperazine (31 mg, 0.17 mmol) in DMF (2 mL) and the reaction stirred at ambient temperature for 18 h. The reaction was diluted with EtOAc (20 mL) and washed with water (2×5 mL), saturated brine (5 mL), dried over Na2SO4 and concentrated in vacuo. The resulting oil was purified using FCC, eluting with 10% MeOH in DCM, to afford the title compound.

reactant | 2-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,3-oxazole-4-carboxylic acid | 0.14 mmol, 50 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC=1OC=C(N1)C(=O)O)C | C15H18N2O6S
reactant | EDCI | 0.17 mmol, 32 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAt | 0.17 mmol, 23 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 1-(1-methylpiperidin-4-yl)piperazine | 0.17 mmol, 31 mg | CN1CCC(CC1)N1CCNCC1 | C10H21N3
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 4-Methoxy-N,2,6-trimethyl-N-[(4-{[4-(1-methylpiperidin-4-yl)piperazin-1-yl]carbonyl}-1,3-oxazol-2-yl)methyl]benzenesulfonamide | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(CC=1OC=C(N1)C(=O)N1CCN(CC1)C1CCN(CC1)C)C)C | C25H37N5O5S
